US05439917
To a solution of 120 mg (0,37 mmol) of 3-chloro-2-metyl-7-phenacylpyrrolo[2,3-b]pyridine hydrochlorid in 2 ml methanol was added 30 mg (0,79mmol) of sodium borohydride. The mixture was stirred for 20 h at room temperature. The solvent was evaporated and the residue was partitioned between 2 ml of 0,2M hydrochloric acid and 2 ml of ethyl acetate. The aqueos layer was basified by addition of 2M sodium hydroxide and extracted twice with 2 ml of methylene chloride. The combined organic phase was dried over sodium sulfate and the solvent was evaporated. The residue was treated with acetonitrile and the precipitate was filtered off to give 20 mg (19%) 3-chloro-2-methyl-7-(2-phenyl-2-hydroxyethyl)pyrrolo-[2,3-b]pyridine.

reactant | 3-chloro-2-metyl-7-phenacylpyrrolo[2,3-b]pyridine hydrochlorid | 0,37 mmol, 120 mg | Cl.ClC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C
reactant | sodium borohydride | 0,79mmol, 30 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 3-chloro-2-methyl-7-(2-phenyl-2-hydroxyethyl)pyrrolo-[2,3-b]pyridine | 20 mg, 19% | ClC1=C(N=C2N(C=CC=C21)CC(O)C2=CC=CC=C2)C | C16H15ClN2O
